datasets/10k_Mayr_OG.csv
SMILES Labelled
"C/[C:11](=[CH:10]/[C:61](C)=[O:62])[O-:12].Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>C[C:11]([CH:10]([C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl)[C:61](C)=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:62]1[N:61]=[N:10][C:71]2=[C:72]1C=CC=C2.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C[N:62]1[N:61]=[N+:10]([F:20])[C:71]2=[C:72]1C=CC=C2.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10=20;20,21=21"
"COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC2=CC=CC=C21>>COC1=CC=C([CH:20]([CH:10]2CC3=CC=CC=C3[C:11]2=[O+:12][Si:63](C)(C)C)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH3:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11](=[N:10][C:61](C)=[O:62])[O-:12].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[C:11]([N:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[C:61](C)=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N-:10][CH:61]=[N:62]2.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl>>CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N:10]([Cl:20])[CH:61]=[N:62]2.Cl[C:21]1=[C:22]([O-:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl 10=20;20,21=21,22;22,23=23"
"C[C:20]1=[CH:21][C:22](=[O:23])CC1.[CH:10](=[C:11]=[N-:12])[C:61]#[N:62]>>C[C:20]1([CH:10]([C:11]#[N:12])[C:61]#[N:62])CC[C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].C[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62]>>CC(C)[O:33][C:22](=[N:21][N:20]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[C:61](C)=[O:62])[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1.[N-:10]1[CH:61]=[N:62][C:72]([N+:73](=[O:74])[O-:83])=[CH:71]1>>[N:10]1([CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]2)[CH:61]=[N:62][C:72]([N+:73](=[O:74])[O-:83])=[CH:71]1 10=20;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C)[O:12]1.CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC(C)=C([N+]2=C([C:22](=[CH:21][CH:20]([CH:10](C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])C1.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2([I+:11]C3=CC=CC=C3)[C:71](=[O:72])CC(C)(C)C[C:91]2=[O:92])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:62]([NH:61][NH2:10])=[O:63])C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([NH2+:10][NH:61][C:62](C1=CC=CC=C1)=[O:63])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
C[C-:10]1[C:61](=[O:62])[O:72]CC[C:81]1=[O:82].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:10]1([C:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[C:61](=[O:62])[O:72]CC[C:81]1=[O:82] 10=20
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].CCCCCC[SiH2:11][H:10]>>CC(C)[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23].CCCCCC[SiH2+:11] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC(C)C[Sn:63](CC(C)C)(CC(C)C)[CH2:62][C:11](C)(C)[H:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1.CC(C)C[Sn:63](CC(C)C)(CC(C)C)[CH2:62][C+:11](C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
